US08669271B2
4-[5-Chloro-2-(2-fluoro-4-methanesulfonyl-phenyl)-pyridin-4-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(2,5-dichloro-pyridin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester and 2-fluoro-4-(methanesulfonyl)phenylboronic acid following a procedure analogous to that described for Intermediate 14. LC (method 7): tR=1.63 min; Mass spectrum (ESI+): m/z=493 [M+H]+.

reactant | 4-(2,5-dichloro-pyridin-4-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC(=NC=C1Cl)Cl | C17H20Cl2N2O2
reactant | 2-fluoro-4-(methanesulfonyl)phenylboronic acid | FC1=C(C=CC(=C1)S(=O)(=O)C)B(O)O | C7H8BFO4S
product | 4-[5-Chloro-2-(2-fluoro-4-methanesulfonyl-phenyl)-pyridin-4-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC(=NC=C1Cl)C1=C(C=C(C=C1)S(=O)(=O)C)F | C24H26ClFN2O4S
